US07235572B2
In analogy to the procedure described in example 2 c], [rac]-(4-{2-methyl-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-indol-1-yl)-acetic acid tert-butyl ester was treated with NaOH to obtain [rac]-(4-{2-methyl-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-indol-1-yl)-acetic acid as yellow oil.

reactant | [rac]-(4-{2-methyl-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-indol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=CC2=C(C=CC=C12)OC(C(C)C)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C29H31F3N2O3S
reactant | NaOH | [OH-].[Na+]
product | [rac]-(4-{2-methyl-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-indol-1-yl)-acetic acid | CC(C(OC1=C2C=CN(C2=CC=C1)CC(=O)O)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C | C25H23F3N2O3S
